US05840911
1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-ethyl-imidazole dihydrochloride
3.2 ml of 32% hydrochloric acid (Merck, Darmstadt, Germany; p.a.) are added, with stirring, to a mixture of 3.28 g (0.016 mol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 2.6 g (0.016 mol) of 1,2-diamino-4-ethyl-imidazole hydrochloride and 150 ml of isopropanol, and the reaction mixture is stirred at 80° C. for 90 hours. The reaction mixture is filtered while hot and the filtration product is washed with isopropanol and dried. In that manner there is obtained the title compound, m.p. 245°-246° C., 1H-NMR (DMSO/D2O): δ=8.22 (d, 1H); 7.73 (d, 1H); 7.59 (t, 1H); 7.19 (s, 1H); 3.2 (m, 4H); 2.47 (m, 2H); 1.17 (t, 3H).

reactant | hydrochloric acid | 3.2 ml | Cl | ClH
reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 0.016 mol, 3.28 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-ethyl-imidazole hydrochloride | 0.016 mol, 2.6 g | Cl.NN1C(=NC(=C1)CC)N
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-ethyl-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)CC)N | InChI=1S/C15H18N6O.2ClH/c1-2-9-8-21(15(17)18-9)19-13-7-6-10-11(13)4-3-5-12(10)14(16)20-22;;/h3-5,8,22H,2,6-7H2,1H3,(H2,16,20)(H2,17,18);2*1H
